US07671215B2
2.9 ml triethylamine was added to the mixture of 2.79 g of 1-((S)—N-(1-(ethoxycarbonyl)-3-phenylpropyl)-L-alanine and 1.15 g of L-proline in 100 ml of acetonitrile and 5 ml DMF and during stirring 3.8 g O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate was added. The reaction mixture was stirred for further 30 minutes at room temperature. 300 ml of saturated NaCl solution was added and the mixture was extracted twice with 100 ml of ethyl acetate. Combined extracts were washed with 70 ml of water/1 ml of conc. HCl mixture and then with 130 ml of water, dried with Na2SO4 and evaporated at 40° C. in vacuum. 3.55 g of enalapril was obtained.

reactant | (S)—N-(1-(ethoxycarbonyl)-3-phenylpropyl)-L-alanine | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C15H21NO4
reactant | L-proline | 1.15 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | NaCl | 300 ml | [Na+].[Cl-]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
product | enalapril | 3.55 g | CCOC(=O)[C@H](CCC=1C=CC=CC1)N[C@@H](C)C(=O)N2CCC[C@H]2C(=O)O | C20H28N2O5
